US09284323B2
Preparation of 2-methylpentan-2-yl acetate:
Prepared in a manner similar to 2-methylhexan-2-yl acetate, except using 2-methylpentan-2-ol. A 500 mL round bottom flask was charged with pyridine (30 mL), 2-methylpentanol (30 mL, 208 mmol) and was added followed by DMAP (1.213 g, 9.93 mmol). Acetic anhydride (46 mL, 417 mmol) was added slowly and the mixture heated at 70° C. for 20 hours. The reaction was quenched by pouring into a 10° C. Et2O bath on ice. 200 mL of water was added and the mixture was extracted with saturated CuSO4 (4×50 mL). The mixture was then washed with water (2×200 mL), saturated NaHCO3 (1×50 mL) and brine (1×50 mL). Mixture was dried with sodium sulfate, filtered and concentrated in vacuo. Distillation of the concentrate at 90° C. at reduced pressure (100 mtorr) resulted in 95% pure 2-methylpentan-2-yl acetate. 1H-NMR: 400 MHz, (CDCl3): 1.91 (s, 3H); 1.69-1.5 (m, 2H); 1.37 (s, 6H); 1.31-1.25 (m, 2H); 0.87 (t J=7.2 Hz, 3H).

reactant | 2-methylhexan-2-yl acetate | C(C)(=O)OC(C)(CCCC)C | C9H18O2
reactant | 2-methylpentan-2-ol | CC(C)(CCC)O | C6H14O
reactant | 2-methylpentanol | 208 mmol, 30 mL | CC(CO)CCC | C6H14O
reactant | Acetic anhydride | 417 mmol, 46 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 9.93 mmol, 1.213 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 2-methylpentan-2-yl acetate | C(C)(=O)OC(C)(CCC)C | C8H16O2
